US07384963B2
N-[4-(Aminosulphonylmethyl)benzyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-(aminomethyl)benzylsulphonamide using method H. NMR; δH [2H6]—DMSO 9.17,(1H, t), 8.00,(2H, d), 7.89,(1H, dd), 7.76,(1H, d), 7.56-7.51,(3H, m), 7.33,(4H, m), 6.82,(2H, b), 4.50,(2H, d), 4.23,(2H, s), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 2.90 min, MH+ 477.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-(aminomethyl)benzylsulphonamide | NCC1=CC=C(CS(=O)(=O)N)C=C1 | C8H12N2O2S
product | N-[4-(Aminosulphonylmethyl)benzyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | NS(=O)(=O)CC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C25H24N4O4S
